US04137401
The antigenic determinant 8-methoxycarbonyloctyl 2-acetamido-2-deoxy-4-O-(α-L-fucopyranosyl)-β-D-glucopyranoside (6).
The syrupy product was used directly for the preparation of 8-methoxycarbonyloctyl 2-acetamido-4-O-(2,3,4-tri-O-benzyl-α-L-fucopyranosyl)-2-deoxy-β-D-glucopyranoside. The crude disaccharide (3.78 g) was dissolved in 50 ml of dry methanol, and 5 ml of 0.2 N sodium methoxide in methanol was added. After 24 h at room temperature, the solution was deionized using the acid resin. Solvent removal left an oil which was dissolved in dichloromethane (100 ml). The solution was washed with water and dried over magnesium sulfate prior to evaporation to a residue (1.01 g, 85% yield) from the fully blocked disaccharide. Purification was by recyrstallization from ethyl acetate-hexane, mp 145°-146°, [α]D25 - 33.6° (c 1.2, chloroform).

reactant | 8-methoxycarbonyloctyl 2-acetamido-4-O-(2,3,4-tri-O-benzyl-α-L-fucopyranosyl)-2-deoxy-β-D-glucopyranoside | C(C)(=O)N[C@H]1[C@H](OCCCCCCCCC(=O)OC)O[C@@H]([C@H]([C@@H]1O)O[C@H]1[C@@H](OCC2=CC=CC=C2)[C@H](OCC2=CC=CC=C2)[C@H](OCC2=CC=CC=C2)[C@@H](O1)C)CO | C45H61NO12
reactant | sodium methoxide | 0.2 N, 5 ml | C[O-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 8-methoxycarbonyloctyl 2-acetamido-2-deoxy-4-O-(α-L-fucopyranosyl)-β-D-glucopyranoside | 1.01 g, 85% yield | C(C)(=O)N[C@H]1[C@H](OCCCCCCCCC(=O)OC)O[C@@H]([C@H]([C@@H]1O)O[C@H]1[C@@H](O)[C@H](O)[C@H](O)[C@@H](O1)C)CO | C24H43NO12
